US08912219B2
A solution of tert-butyl 1,1-dioxo-7-phenyl-1λ6,2,7-thiadiazepane-2-carboxylate (860 mg, 2.64 mmol) in a 4 M solution of HCl in EtOH (30 mL) was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure to afford 2-phenyl-1λ6,2,7-thiadiazepane-1,1-dione as a yellow oil (500 mg, 85%). LCMS (ESI): m/z=227.2 [M+H]+.

reactant | tert-butyl 1,1-dioxo-7-phenyl-1λ6,2,7-thiadiazepane-2-carboxylate | 2.64 mmol, 860 mg | O=S1(N(CCCCN1C1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C15H22N2O4S
reactant | HCl | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
product | 2-phenyl-1λ6,2,7-thiadiazepane-1,1-dione | 500 mg, 85% | C1(=CC=CC=C1)N1S(NCCCC1)(=O)=O | C10H14N2O2S
